US05003069
Amination of 2-(3-pentyl)pyridine
A mixture of 105.8 g (2.71 moles) of sodamide and 332 g of xylene containing 1.0 cc of oleic acid was placed in a liter Magne Drive, equipped as described in Example 15. The autoclave was closed and purged of air with nitrogen and pressurized to 100 psig with nitrogen. The pressure relief valve was set at 100 psig. Cooling water was turned on the reflux condenser. The mixture was heated with stirring to 190° C. and 235.0 g (1.58 moles) of 2-(3-pentyl)pyridine was started adding from a Fisher-porter pressure bottle. The addition required 5.5 hours at 190° C.-215° C. The reaction mixture was heated an additional 5 hours within that temperature range until hydrogen almost stopped passing through the relief valve. The autoclave was cooled to 50° C., vented to atmospheric pressure and hydrolyzed with 200 cc of water. The oil layer was separated and distilled under vacuum to give 258.6 g of 2 -amino-6-(3-pentyl)pyridine. b.p. 163° C. at 60 mm. n25D 1.5357 (yield 68.1%). This 2-amino-6-pentyl)pyridine is a new composition of matter. It is a novel liquid aminopyridine and has valuable biocidal properties. When this amination is repeated at atmospheric pressure under classic Chichibabin conditions, the product is 6,6'-di-(3-pentyl)-2,2'-bipyridyl as shown in McGill, U.S. Pat. No. 4,177,349 (1979) and McGill, U.S. Pat. No. 4,267,335 (1981).

reactant | aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 6,6'-di-(3-pentyl)-2,2'-bipyridyl | CCC(CC)C1=CC=CC(=N1)C1=NC(=CC=C1)C(CC)CC | C20H28N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(3-pentyl)pyridine | CCC(CC)C1=NC=CC=C1 | C10H15N
